US08357718B2
To a stirred solution of 3-[(trans-4-methyl-cyclohexanecarbonyl)-(tetrahydro-thiopyran-4-yl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester (57 mg, 0.124 mmol)in EtOH (1.2 mL) from step 2 was added magnesium monoperoxyphthalic acid (29.6 mg, 0.06 mmol) in one portion, stirred for 24 h. Reaction mixture was diluted with water, extracted with EtOAc. The combined organic solution was washed with brine, dried, and concentrated. Purification of the residue on Preparative TLC using 5% MeOH-DCM gave 3-[(trans-4-methyl-cyclohexanecarbonyl)-(1-oxo-tetrahydro-thiopyran-4-yl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester (30 mg, 51%). NMR 1H (CDCl3, 400 MHz, For major isomer): 7.66-7.6 (m, 2H), 7.5-7.4 (m, 3H), 7.09 (s, 1H), 4.84-4.76 (t, 1H), 3.85 (s, 3H), 3.4-1.2 (m), 0.772 (d, J=6.6, 3H), 0.74-0.56 (m, 2H).

reactant | 3-[(trans-4-methyl-cyclohexanecarbonyl)-(tetrahydro-thiopyran-4-yl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester | 0.124 mmol, 57 mg | COC(=O)C=1SC(=CC1N(C1CCSCC1)C(=O)[C@@H]1CC[C@H](CC1)C)C1=CC=CC=C1 | C25H31NO3S2
reactant | magnesium monoperoxyphthalic acid | 0.06 mmol, 29.6 mg | C(C=1C(C(=O)O)=CC=CC1)(=O)OO.[Mg]
solvent | EtOH | 1.2 mL | CCO | C2H6O
solvent | water | O | H2O
product | 3-[(trans-4-methyl-cyclohexanecarbonyl)-(1-oxo-tetrahydro-thiopyran-4-yl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester | 30 mg, 51% | COC(=O)C=1SC(=CC1N(C1CCS(CC1)=O)C(=O)[C@@H]1CC[C@H](CC1)C)C1=CC=CC=C1 | C25H31NO4S2
